US06002008
4-Chloro-7-methoxy -3-quinolinecarbonitrile
A mixture of 4.0 g (20 mmol) of 1,4-dihydro-7-methoxy-4-oxo-3-quinolinecarbonitrile and 8.3 g (40 mmol) of phosphorous pentachloride was heated at 165° C. for 3 hours. The mixture was diluted with hexanes and the solid was collected. The solid was mixed with brine and dilute sodium hydroxide solution and extracted several times with a mixture of tetrahydrofuran and ethyl acetate. The solution was dried over magnesium sulfate and filtered through a pad of silica gel giving 3.7 g of 4-chloro-7-methoxy -3-quinolinecarbonitrile as a white solid: mass spectrum (electrospray, m/e): M+H 218.9.

reactant | 1,4-dihydro-7-methoxy-4-oxo-3-quinolinecarbonitrile | 20 mmol, 4.0 g | COC1=CC=C2C(C(=CNC2=C1)C#N)=O | C11H8N2O2
reactant | phosphorous pentachloride | 40 mmol, 8.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 4-Chloro-7-methoxy -3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=CC=C12)OC)C#N | C11H7ClN2O
